US05284828
Benzyl (2R)-2-carboxymethyl-4-methylvalerate (320 mg), octahydroazocin (165 mg) and WSCD·HCl (280 mg) were reacted in methylene chloride (20 ml) in a similar manner to that of Preparation 18 to give benzyl (2R)-2-(octahydroazocin-1-ylcarbonylmethyl)-4-methylvalerate (378 mg).

reactant | Benzyl (2R)-2-carboxymethyl-4-methylvalerate | 320 mg | C(=O)(O)C[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C15H20O4
reactant | octahydroazocin | 165 mg | N1CCCCCCC1 | C7H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | benzyl (2R)-2-(octahydroazocin-1-ylcarbonylmethyl)-4-methylvalerate | 378 mg | N1(CCCCCCC1)C(=O)C[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C22H33NO3
